US05151113
Preparation of Methyl 2-Bromo-2-phenoxyacetate
Methyl phenoxyacetate (5.0 g, 30 mmol), N-bromosuccinimide (5.4 g, 30 mmol), a few crystals (0.2 to 0.5 g) of benzoyl peroxide, and 50 mL of carbon tetrachloride were placed in a 100 mL flask and heated at reflux with stirring for about 4 hr. The mixture was then allowed to cool, was filtered, and was concentrated by evaporation under reduced pressure to obtain 6.6 g (90 percent of theory) of the title compound as a red oil.

reactant | Methyl phenoxyacetate | 30 mmol, 5.0 g | O(C1=CC=CC=C1)CC(=O)OC | C9H10O3
reactant | N-bromosuccinimide | 30 mmol, 5.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.2 to 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 2-Bromo-2-phenoxyacetate | BrC(C(=O)OC)OC1=CC=CC=C1 | C9H9BrO3
